US05294734
1.40 g (6.0 mmol) of 6-fluoro-2-formylamino-3-hydroxy-4-methylene-hexanoic acid ethyl ester are dissolved in 14 ml of 1,2-dichloroethane, and 0.56 ml (7.2 mmol) of thionyl bromide is added dropwise at room temperature. After 45 minutes, 12 ml of water are added and the mixture is stirred vigorously for 15 minutes. The organic phase is separated off, washed in succession with water, 1N potassium hydrogen carbonate solution and again with water, dried over sodium sulfate, filtered and concentrated by evaporation. 4-bromomethyl-6-fluoro-2-formylamino-hex-3-enoic acid ethyl ester is obtained in the form of a brownish-yellow oil.

reactant | 6-fluoro-2-formylamino-3-hydroxy-4-methylene-hexanoic acid ethyl ester | 6.0 mmol, 1.40 g | C(C)OC(C(C(C(CCF)=C)O)NC=O)=O | C10H16FNO4
reactant | thionyl bromide | 7.2 mmol, 0.56 ml | S(=O)(Br)Br | Br2OS
reactant | water | 12 ml | O | H2O
solvent | 1,2-dichloroethane | 14 ml | ClCCCl | C2H4Cl2
product | 4-bromomethyl-6-fluoro-2-formylamino-hex-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCF)CBr)NC=O)=O | C10H15BrFNO3
